US05945415
To a mixture of 1200 ml of chloroform and 1602 g of N'-methyl-N-(3-methylbenzyl)ethylenediamine, a mixture of 3500 ml of a chloroform solution and 2180 g of di-tert-butyl dicarbonate was added dropwise under cooling with ice. After stirring the reaction mixture then for 18 hours at room temperature, the reaction mixture was concentrated to dryness under reduced pressure. Adding toluene and ice water to the residue, 10% aqueous citric acid solution was added dropwise thereto under cooling with ice to maintain the temperature inside the solution at not higher than 4° C. Whereupon the aqueous layer was made acidic. The toluene layer was separated and extracted with water. Thus obtained aqueous layer was combined with the acidic aqueous solution, and washed with toluene. The aqueous layer was made alkaline with 48% aqueous sodium hydroxide solution and reextracted with toluene. The extract was washed with water and saturated saline solution and dried over anhydrous sodium sulfate. Evaporating the solvent under reduced pressure, 1860 g of N'-tert.butoxycarbonyl-N'-methyl-N-(3-methylbenzyl)ethylenediamine was obtained as an oily product.

reactant | N'-methyl-N-(3-methylbenzyl)ethylenediamine | 1602 g | CNCCNCC1=CC(=CC=C1)C | C11H18N2
reactant | di-tert-butyl dicarbonate | 2180 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 3500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1200 ml | C(Cl)(Cl)Cl | CHCl3
product | N'-tert.butoxycarbonyl-N'-methyl-N-(3-methylbenzyl)ethylenediamine | 1860 g | C(C)(C)(C)OC(=O)N(CCNCC1=CC(=CC=C1)C)C | C16H26N2O2
